US03979381
2-Acetyl-2,3,3a,4,6,7-hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5-dioxide
A suspension of 1.6g of 2,3,3a,4,6,7-hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5-dioxide in 2ml of acetic anhydride and 30ml of acetic acid is heated on a steam bath for 15 minutes. Hot water (50ml) is added with stirring and the solution is allowed to cool to room temperature. The solids are collected and washed well with water and dried in vacuo over phosphorus pentoxide at 50°C to yield 1.65g of the title compound, melting point 218°-219.5°C.

reactant | 2,3,3a,4,6,7-hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5-dioxide | 1.6g | C1(=CC=CC=C1)C1C2C(=NN1)C(CS(C2)(=O)=O)=CC2=CC=CC=C2 | C19H18N2O2S
reactant | water | 50ml | O | H2O
reactant | acetic anhydride | 2ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 30ml | C(C)(=O)O | C2H4O2
product | 2-Acetyl-2,3,3a,4,6,7-hexahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-5,5-dioxide | 1.65g | C(C)(=O)N1N=C2C(C1C1=CC=CC=C1)CS(CC2=CC2=CC=CC=C2)(=O)=O | C21H20N2O3S
